US07625922B2
3-(Methylthio)-4-nitrophenol
To a solution of 3-fluoro-4-nitrophenol (2 g, 12.7 mmol) in dry DMF (67 mL) was added, by aliquots, 2 equivalents of sodium thiomethoxide (1.78 g, 25.5 mmol) followed by 3 equivalents of potassium carbonate (5.27 g, 38.2 mmol). The mixture was stirred at room temperature for 23 hours and then water (100 mL) was added. The mixture was extracted with EtOAc, and the combined organic layers washed successively with water (60 mL) and brine (60 mL) and then dried over MgSO4. The solvent was evaporated under vacuum to provide the title compound (2.12 g, 90%) as a yellow powder. 1H-NMR (δ, ppm, DMSO-d6): 2.44 (s, 3H, HMe), 6.72 (d, 1H, Harom 6, J6-5=9.0 Hz), 6.79 (s, 1H, Harom 2), 8.19 (d, 1H, Harom 5, J5-8=9.1 Hz), 11.20 (broad s, 1H, OH).

reactant | 3-fluoro-4-nitrophenol | 12.7 mmol, 2 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | sodium thiomethoxide | 25.5 mmol, 1.78 g, 2 equivalents | C[S-].[Na+]
reactant | potassium carbonate | 38.2 mmol, 5.27 g, 3 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 67 mL | CN(C)C=O | C3H7NO
product | 3-(Methylthio)-4-nitrophenol | 2.12 g, 90% | CSC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3S
